US08729105B2
Preparation of 5-(4-cyanophenyl)-6-(2,2,2-trifluoroethoxy)-N-((3-(trifluoromethyl)-1,2,4-oxadiazol-5-yl)methyl)nicotinamide
The title compound was synthesized in analogy to Example 1 using 5-(4-cyanophenyl)-6-(2,2,2-trifluoroethoxy)nicotinic acid (example BU) and 3-trifluoromethyl-[1,2,4]oxadiazol-5-methanamine (example AK) as starting materials; MS (ESI): 470.2 (M−H)−.

reactant | 5-(4-cyanophenyl)-6-(2,2,2-trifluoroethoxy)nicotinic acid | C(#N)C1=CC=C(C=C1)C=1C(=NC=C(C(=O)O)C1)OCC(F)(F)F | C15H9F3N2O3
reactant | 3-trifluoromethyl-[1,2,4]oxadiazol-5-methanamine | FC(C1=NOC(=N1)CN)(F)F | C4H4F3N3O
product | 5-(4-cyanophenyl)-6-(2,2,2-trifluoroethoxy)-N-((3-(trifluoromethyl)-1,2,4-oxadiazol-5-yl)methyl)nicotinamide | C(#N)C1=CC=C(C=C1)C=1C(=NC=C(C(=O)NCC2=NC(=NO2)C(F)(F)F)C1)OCC(F)(F)F | C19H11F6N5O3
